US07202253B2
To a solution of diisopropylamine (4.2 mL) in THF (30 mL) at 0° C. was added n-BuLi in hexanes (1.6 M, 19 mL). After stirring for 30 min., the reaction mixture was cooled to −78° C. and cyclohexanecarbonitrile (1.09 g, 10 mmol) in THF (10 mL) was added drop wise. After 2 h, acetone (1.16 g, 20 mmol) was added. The reaction mixture was stirred from −78° C. to rt overnight, diluted with Et2O (100 mL), washed with 1N HCl, H2O, brine and dried over anhydrous sodium sulfate. Purification by flash chromatography (1:1, hexanes-Et2O) gave 1-(1-hydroxy-1-methyl-ethyl)-cyclohexanecarbonitrile (1.27 g, 76%) as a colorless oil. 1H NMR (CDCl3, 300 MHz) δ (ppm) 0.86–1.91 (8H, m), 1.35 (6H, s), 2.01 (2H, d, J=12.8 Hz), 3.65 (1H, t, J=6.4 Hz). Mass Spec [M+H]+=168.1.

reactant | diisopropylamine | 4.2 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | [Li]CCCC
reactant | cyclohexanecarbonitrile | 10 mmol, 1.09 g | C1(CCCCC1)C#N | C7H11N
reactant | acetone | 20 mmol, 1.16 g | CC(=O)C | C3H6O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | 1-(1-hydroxy-1-methyl-ethyl)-cyclohexanecarbonitrile | 1.27 g, 76% | OC(C)(C)C1(CCCCC1)C#N | C10H17NO
